US04143042
To 70 ml of dimethylformamide was added 2.2 g of 2-amino-4-oxo-4H-1-benzopyran-3-carboxaldehyde, followed by the addition of 2.5 g of cyanoacetylene. The mixture was heated under stirring at 140° C. for 15 hours and the solvent was then distilled off under reduced pressure. The residue was chromatographed on silica gel and eluted with chloroform and recrystallized from acetonitrile to give 0.83 g of 3-cyano-1-azaxanthone as crystals, m.p. 220°-226° C.

reactant | 2-amino-4-oxo-4H-1-benzopyran-3-carboxaldehyde | 2.2 g | NC=1OC2=C(C(C1C=O)=O)C=CC=C2 | C10H7NO3
reactant | cyanoacetylene | 2.5 g | C(#N)C#C | C3HN
reactant | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 3-cyano-1-azaxanthone | 0.83 g | C(#N)C=1C=NC=2C(C3=CC=CC=C3OC2C1)=O | C13H6N2O2
